US06414181B1
Under a nitrogen atmosphere, 0.306 g of tert-butyl (±)-trans-2,2-dimethyl-3-formyl-cyclopropanecarboxylate was dissolved in 3 mL of anhydrous pyridine. Two hundred sixty-three milligrams (0.263 mg) of piperidine and 0.352 g of ethyl methylmalonate was then added thereto, and the resulting mixture was stirred at a temperature of 100° C. for a time period of 5 hours. After the mixture was allowed to cool to room temperature, 100 mL of diethyl ether was added to said mixture and the resulting mixture was washed with 3N-hydrochloric acid and then saturated brine to obtain an organic layer therefrom. The organic layer was dried over anhydrous magnesium sulfate and thereafter the solvent was evaporated under reduced pressure in order to produce a residue. The residue was subjected to silica gel column chromatography, wherein the eluent solvent was a mixture of n-hexane and ethyl acetate at a volume to volume ratio of 3:1 to give 0.372 g of tert-butyl (±)-trans-2,2-dimethyl-3-{2-ethoxycarbonyl-(E)-1-propenyl}cyclopropanecarboxylate.

reactant | tert-butyl (±)-trans-2,2-dimethyl-3-formyl-cyclopropanecarboxylate | 0.306 g | CC1([C@H]([C@@H]1C=O)C(=O)OC(C)(C)C)C | C11H18O3
reactant | piperidine | Two hundred sixty-three milligrams | N1CCCCC1 | C5H11N
reactant | ethyl methylmalonate | 0.352 g | CC(C(=O)OCC)C(=O)[O-]
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | tert-butyl (±)-trans-2,2-dimethyl-3-{2-ethoxycarbonyl-(E)-1-propenyl}cyclopropanecarboxylate | 0.372 g, Yield: 85.1% | CC1([C@H]([C@@H]1\C=C(/C)\C(=O)OCC)C(=O)OC(C)(C)C)C | C16H26O4
